US04808565
Powdered Fe(NO3)3.9H2O, 80.8 g, is dissolved in 800 ml glacial acetic acid. As soon as a clear solution is obtained, 193.0 g bis-(2-ethylhexyl)phosphate (DEHP) is added in a rapid dropwise manner with vigorous stirring. Less than a stoichiometric amount of DEHP gives a more colored product; an excess of DEHP is not disadvantageous. The white product is filtered, washed with acetic acid and dried under vacuum. The approximate yield is 84%. The product is found to be rubbery and may be recrystallized by precipitation from cyclohexane by acetone. It is important that FeCl3 not be used since a clear yellow acetic acid solution results.

reactant | bis-(2-ethylhexyl)phosphate | 193.0 g | C(C)C(COP(=O)(OCC(CCCC)CC)[O-])CCCC
reactant | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | DEHP | yield is 84% | CCCCC(CC)COC(=O)C1=CC=CC=C1C(=O)OCC(CC)CCCC | C24H38O4
